US06440995B1
(RS)-1-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-3-piperidin-1-yl-propan-2-ol hydrochloride
The title compound, m.p. 269-272° C., and MS: m/e=392.3 (M+H+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-quinoline and (RS)-1-amino-3-piperidin-1-yl-propan-2-ol.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | (RS)-1-amino-3-piperidin-1-yl-propan-2-ol | NCC(CN1CCCCC1)O | C8H18N2O
product | (RS)-1-[2-(4-Methoxy-phenyl)-quinolin-4-ylamino]-3-piperidin-1-yl-propan-2-ol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CN1CCCCC1)O | InChI=1S/C24H29N3O2.ClH/c1-29-20-11-9-18(10-12-20)23-15-24(21-7-3-4-8-22(21)26-23)25-16-19(28)17-27-13-5-2-6-14-27;/h3-4,7-12,15,19,28H,2,5-6,13-14,16-17H2,1H3,(H,25,26);1H
